simulator lang=spectre
// Feasibility experiment, not a released VCO: tank R/L/C and reference current
// are explicit assumptions. Core and current mirror use project PDK MOS devices.
subckt tx_lc_core_filtered (vp vn vdd vss)
parameters tank_c=750f tank_l=2n tank_r=5 ibias=80u core_w=20u
RP (vdd lp) resistor r=tank_r
RN (vdd ln) resistor r=tank_r
LP (lp vp) inductor l=tank_l
LN (ln vn) inductor l=tank_l
CP (vp vss) capacitor c=tank_c
CN (vn vss) capacitor c=tank_c
MN0 (vp vn tail vss) nch w=core_w l=180n ad=core_w*240n as=core_w*240n pd=2*(core_w+240n) ps=2*(core_w+240n)
MN1 (vn vp tail vss) nch w=core_w l=180n ad=core_w*240n as=core_w*240n pd=2*(core_w+240n) ps=2*(core_w+240n)
MT (tail nfilt vss vss) nch w=30u l=1u ad=7.2p as=7.2p pd=60.48u ps=60.48u
MR (nb nb vss vss) nch w=2u l=1u ad=.48p as=.48p pd=4.48u ps=4.48u
IREF (vdd nb) isource dc=ibias
RF (nb nfilt) resistor r=200k
CF (nfilt vss) capacitor c=5p
ends tx_lc_core_filtered
